US06020345
Stage 3: 6-(2-trimethylsilanyl-ethoxymethoxymethyl)-pyridin-2-ol
7 g of Raney Nickel are added to a solution of 7 g of 2-benzyloxy-6-(2-trimethylsilanyl-ethoxymethoxy-methyl)pyridine in 75 ml of ethanol saturated with hydrogen. The suspension is stirred vigorously under a low hydrogen pressure at room temperature for 1 hour 30 minutes. The solid in suspension is removed by filtration on celite and then the ethanol is evaporated off. The title product is isolated by chromatography on a silica column (eluent: dichloromethane/methanol; 98:2). 4 g of a colorless oil are recovered.

reactant | 2-benzyloxy-6-(2-trimethylsilanyl-ethoxymethoxy-methyl)pyridine | 7 g | C(C1=CC=CC=C1)OC1=NC(=CC=C1)COCOCC[Si](C)(C)C | C19H27NO3Si
reactant | hydrogen | [H][H] | H2
catalyst | Raney Nickel | 7 g | [Ni] | Ni
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 6-(2-trimethylsilanyl-ethoxymethoxymethyl)-pyridin-2-ol | Yield: 76.8% | C[Si](CCOCOCC1=CC=CC(=N1)O)(C)C | C12H21NO3Si
